* SPICE3 file created from test.ext - technology: scmos

.include TSMC_180nm.txt
.param SUPPLY = 1.8
.option scale=0.09u
.global gnd vdd

VDS vdd gnd 'SUPPLY'
vin1 a3 gnd 1.8
vin2 a2 gnd 0
vin3 a1 gnd 1.8
vin4 a0 gnd 1.8
vin5 b3 gnd 1.8
vin6 b2 gnd 0
vin7 b1 gnd 1.8
vin8 b0 gnd 0

M1000 Vdd b3 2and_0/a_13_5# Vdd CMOSP w=6 l=2
+  ad=96 pd=68 as=48 ps=28
M1001 g3 2and_0/a_13_5# gnd Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=40 ps=36
M1002 2and_0/a_13_5# a3 Vdd Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 g3 2and_0/a_13_5# Vdd Vdd CMOSP w=6 l=2
+  ad=30 pd=22 as=0 ps=0
M1004 2and_0/a_13_5# b3 2and_0/a_13_n25# Gnd CMOSN w=4 l=2
+  ad=24 pd=20 as=32 ps=24
M1005 2and_0/a_13_n25# a3 gnd Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0

M1006 Vdd b2 2and_1/a_13_5# Vdd CMOSP w=6 l=2
+  ad=96 pd=68 as=48 ps=28
M1007 g2 2and_1/a_13_5# gnd Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=40 ps=36
M1008 2and_1/a_13_5# a2 Vdd Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 g2 2and_1/a_13_5# Vdd Vdd CMOSP w=6 l=2
+  ad=30 pd=22 as=0 ps=0
M1010 2and_1/a_13_5# b2 2and_1/a_13_n25# Gnd CMOSN w=4 l=2
+  ad=24 pd=20 as=32 ps=24
M1011 2and_1/a_13_n25# a2 gnd Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0


M1012 Vdd b1 2and_2/a_13_5# Vdd CMOSP w=6 l=2
+  ad=96 pd=68 as=48 ps=28
M1013 g1 2and_2/a_13_5# gnd Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=40 ps=36
M1014 2and_2/a_13_5# a1 Vdd Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1015 g1 2and_2/a_13_5# Vdd Vdd CMOSP w=6 l=2
+  ad=30 pd=22 as=0 ps=0
M1016 2and_2/a_13_5# b1 2and_2/a_13_n25# Gnd CMOSN w=4 l=2
+  ad=24 pd=20 as=32 ps=24
M1017 2and_2/a_13_n25# a1 gnd Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0


M1018 Vdd b0 2and_3/a_13_5# Vdd CMOSP w=6 l=2
+  ad=96 pd=68 as=48 ps=28
M1019 g0 2and_3/a_13_5# gnd Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=40 ps=36
M1020 2and_3/a_13_5# a0 Vdd Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1021 g0 2and_3/a_13_5# Vdd Vdd CMOSP w=6 l=2
+  ad=30 pd=22 as=0 ps=0
M1022 2and_3/a_13_5# b0 2and_3/a_13_n25# Gnd CMOSN w=4 l=2
+  ad=24 pd=20 as=32 ps=24
M1023 2and_3/a_13_n25# a0 gnd Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0


M1024 xor1_0/a_24_2# a3 p3 Vdd CMOSP w=6 l=2
+  ad=48 pd=28 as=48 ps=28
M1025 vdd b3 xor1_0/a_32_n47# Vdd CMOSP w=6 l=2
+  ad=120 pd=88 as=30 ps=22
M1026 gnd b3 xor1_0/a_32_n47# Gnd CMOSN w=4 l=2
+  ad=80 pd=72 as=20 ps=18
M1027 p3 xor1_0/a_n12_n44# xor1_0/a_4_2# Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=48 ps=28
M1028 xor1_0/a_n12_n44# a3 gnd Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1029 gnd xor1_0/a_32_n47# xor1_0/a_24_n44# Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1030 xor1_0/a_4_2# b3 vdd Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1031 xor1_0/a_24_n44# xor1_0/a_n12_n44# p3 Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1032 vdd xor1_0/a_32_n47# xor1_0/a_24_2# Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1033 p3 a3 xor1_0/a_4_n44# Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1034 xor1_0/a_4_n44# b3 gnd Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0
M1035 xor1_0/a_n12_n44# a3 vdd Vdd CMOSP w=6 l=2
+  ad=30 pd=22 as=0 ps=0

M1036 xor1_1/a_24_2# a2 p2 Vdd CMOSP w=6 l=2
+  ad=48 pd=28 as=48 ps=28
M1037 vdd b2 xor1_1/a_32_n47# Vdd CMOSP w=6 l=2
+  ad=120 pd=88 as=30 ps=22
M1038 gnd b2 xor1_1/a_32_n47# Gnd CMOSN w=4 l=2
+  ad=80 pd=72 as=20 ps=18
M1039 p2 xor1_1/a_n12_n44# xor1_1/a_4_2# Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=48 ps=28
M1040 xor1_1/a_n12_n44# a2 gnd Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1041 gnd xor1_1/a_32_n47# xor1_1/a_24_n44# Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1042 xor1_1/a_4_2# b2 vdd Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1043 xor1_1/a_24_n44# xor1_1/a_n12_n44# p2 Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1044 vdd xor1_1/a_32_n47# xor1_1/a_24_2# Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1045 p2 a2 xor1_1/a_4_n44# Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1046 xor1_1/a_4_n44# b2 gnd Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0
M1047 xor1_1/a_n12_n44# a2 vdd Vdd CMOSP w=6 l=2
+  ad=30 pd=22 as=0 ps=0


M1048 xor1_2/a_24_2# a1 p1 Vdd CMOSP w=6 l=2
+  ad=48 pd=28 as=48 ps=28
M1049 vdd b1 xor1_2/a_32_n47# Vdd CMOSP w=6 l=2
+  ad=120 pd=88 as=30 ps=22
M1050 gnd b1 xor1_2/a_32_n47# Gnd CMOSN w=4 l=2
+  ad=80 pd=72 as=20 ps=18
M1051 p1 xor1_2/a_n12_n44# xor1_2/a_4_2# Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=48 ps=28
M1052 xor1_2/a_n12_n44# a1 gnd Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1053 gnd xor1_2/a_32_n47# xor1_2/a_24_n44# Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1054 xor1_2/a_4_2# b1 vdd Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1055 xor1_2/a_24_n44# xor1_2/a_n12_n44# p1 Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1056 vdd xor1_2/a_32_n47# xor1_2/a_24_2# Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1057 p1 a1 xor1_2/a_4_n44# Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1058 xor1_2/a_4_n44# b1 gnd Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0
M1059 xor1_2/a_n12_n44# a1 vdd Vdd CMOSP w=6 l=2
+  ad=30 pd=22 as=0 ps=0


M1060 xor1_3/a_24_2# a0 p0 Vdd CMOSP w=6 l=2
+  ad=48 pd=28 as=48 ps=28
M1061 vdd b0 xor1_3/a_32_n47# Vdd CMOSP w=6 l=2
+  ad=120 pd=88 as=30 ps=22
M1062 gnd b0 xor1_3/a_32_n47# Gnd CMOSN w=4 l=2
+  ad=80 pd=72 as=20 ps=18
M1063 p0 xor1_3/a_n12_n44# xor1_3/a_4_2# Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=48 ps=28
M1064 xor1_3/a_n12_n44# a0 gnd Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1065 gnd xor1_3/a_32_n47# xor1_3/a_24_n44# Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1066 xor1_3/a_4_2# b0 vdd Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1067 xor1_3/a_24_n44# xor1_3/a_n12_n44# p0 Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1068 vdd xor1_3/a_32_n47# xor1_3/a_24_2# Vdd CMOSP w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1069 p0 a0 xor1_3/a_4_n44# Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=32 ps=24
M1070 xor1_3/a_4_n44# b0 gnd Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0
M1071 xor1_3/a_n12_n44# a0 vdd Vdd CMOSP w=6 l=2
+  ad=30 pd=22 as=0 ps=0


C0 b2 b0 0.08fF
C1 b3 xor1_0/a_32_n47# 0.28fF
C2 b3 gnd 0.15fF
C3 gnd a1 0.08fF
C4 a2 vdd 0.04fF
C5 b2 vdd 0.15fF
C6 xor1_0/a_32_n47# gnd 0.04fF
C7 gnd g3 0.06fF
C8 gnd xor1_2/a_n12_n44# 0.08fF
C9 Vdd vdd 0.05fF
C10 b0 2and_3/a_13_5# 0.17fF
C11 Vdd a2 0.14fF
C12 g0 Vdd 0.06fF
C13 gnd 2and_3/a_13_5# 0.02fF
C14 2and_0/a_13_5# Vdd 0.09fF
C15 a0 gnd 0.01fF
C16 b0 xor1_3/a_32_n47# 0.28fF
C17 g1 gnd 0.06fF
C18 Vdd vdd 0.12fF
C19 Vdd vdd 0.05fF
C20 xor1_2/a_n12_n44# a1 0.08fF
C21 a2 2and_1/a_13_5# 0.04fF
C22 b3 b0 0.08fF
C23 b0 vdd 0.01fF
C24 gnd gnd 0.04fF
C25 Vdd a3 0.08fF
C26 a3 vdd 0.02fF
C27 b3 vdd 0.15fF
C28 gnd gnd 0.33fF
C29 b2 gnd 0.17fF
C30 vdd Vdd 0.12fF
C31 xor1_3/a_n12_n44# gnd 0.08fF
C32 gnd gnd 0.04fF
C33 a0 gnd 0.01fF
C34 Vdd a0 0.08fF
C35 vdd xor1_2/a_32_n47# 0.06fF
C36 a2 p2 0.01fF
C37 Vdd p0 0.02fF
C38 Vdd Vdd 0.06fF
C39 g2 2and_1/a_13_5# 0.05fF
C40 b2 b1 0.60fF
C41 b0 gnd 0.01fF
C42 a3 vdd 0.23fF
C43 vdd vdd 0.05fF
C44 b3 gnd 0.11fF
C45 a3 vdd 0.04fF
C46 vdd gnd 0.15fF
C47 b2 vdd 0.13fF
C48 b0 a0 2.76fF
C49 gnd gnd 0.04fF
C50 2and_3/a_13_5# Vdd 0.09fF
C51 gnd vdd 0.76fF
C52 Vdd b2 0.13fF
C53 a0 vdd 0.05fF
C54 Vdd b0 0.08fF
C55 b3 2and_1/a_13_5# 0.17fF
C56 g0 Vdd 0.03fF
C57 b3 b1 0.08fF
C58 xor1_3/a_32_n47# vdd 0.06fF
C59 gnd 2and_1/a_13_5# 0.02fF
C60 b0 b0 0.12fF
C61 b1 vdd 0.01fF
C62 gnd gnd 0.05fF
C63 gnd gnd 0.05fF
C64 b0 gnd 0.01fF
C65 vdd b0 0.01fF
C66 b3 vdd 0.13fF
C67 gnd gnd 0.15fF
C68 vdd vdd 0.09fF
C69 gnd vdd 0.37fF
C70 a2 Vdd 0.08fF
C71 xor1_1/a_n12_n44# vdd 0.12fF
C72 vdd a1 0.23fF
C73 b2 a1 0.10fF
C74 Vdd Vdd 0.03fF
C75 vdd xor1_2/a_n12_n44# 0.12fF
C76 a0 gnd 0.05fF
C77 Vdd 2and_3/a_13_5# 0.02fF
C78 b2 p2 0.10fF
C79 b1 gnd 0.01fF
C80 Vdd 2and_0/a_13_5# 0.02fF
C81 a0 xor1_3/a_n12_n44# 0.08fF
C82 b0 vdd 0.01fF
C83 gnd b0 0.12fF
C84 xor1_0/a_n12_n44# vdd 0.12fF
C85 b1 a0 0.10fF
C86 gnd gnd 0.15fF
C87 gnd vdd 0.09fF
C88 b3 b3 0.07fF
C89 g3 Vdd 0.03fF
C90 b3 Vdd 0.08fF
C91 xor1_1/a_32_n47# vdd 0.06fF
C92 b3 a1 0.10fF
C93 a1 vdd 0.01fF
C94 Vdd xor1_1/a_n12_n44# 0.09fF
C95 a2 b2 2.69fF
C96 xor1_3/a_32_n47# Vdd 0.09fF
C97 a0 vdd 0.23fF
C98 a0 vdd 0.04fF
C99 Vdd Vdd 0.06fF
C100 Vdd 2and_3/a_13_5# 0.08fF
C101 a2 gnd 0.08fF
C102 b1 b0 0.60fF
C103 gnd 2and_0/a_13_5# 0.02fF
C104 b1 2and_2/a_13_5# 0.17fF
C105 Vdd p3 0.02fF
C106 xor1_3/a_32_n47# p0 0.10fF
C107 b1 gnd 0.02fF
C108 Vdd a3 0.14fF
C109 Vdd Vdd 0.06fF
C110 b0 gnd 0.06fF
C111 b3 Vdd 0.08fF
C112 xor1_0/a_32_n47# vdd 0.06fF
C113 p1 Vdd 0.02fF
C114 gnd b3 0.03fF
C115 vdd gnd 0.15fF
C116 gnd vdd 0.09fF
C117 Vdd b1 0.08fF
C118 g2 Vdd 0.06fF
C119 b3 a2 0.10fF
C120 b0 xor1_3/a_n12_n44# 0.20fF
C121 g3 2and_0/a_13_5# 0.05fF
C122 p1 xor1_2/a_32_n47# 0.10fF
C123 a2 vdd 0.01fF
C124 a1 gnd 0.01fF
C125 Vdd xor1_1/a_32_n47# 0.09fF
C126 b1 p1 0.10fF
C127 b1 b1 0.07fF
C128 b0 b1 0.08fF
C129 Vdd Vdd 0.03fF
C130 xor1_1/a_n12_n44# p2 0.12fF
C131 b0 b0 0.08fF
C132 b1 vdd 0.15fF
C133 Vdd b3 0.13fF
C134 a0 vdd 0.02fF
C135 g2 Vdd 0.03fF
C136 b0 vdd 0.05fF
C137 a3 p3 0.01fF
C138 Vdd a0 0.14fF
C139 Vdd 2and_2/a_13_5# 0.02fF
C140 a2 gnd 0.05fF
C141 a1 gnd 0.05fF
C142 g3 Vdd 0.06fF
C143 a2 xor1_1/a_n12_n44# 0.08fF
C144 vdd gnd 0.76fF
C145 a0 p0 0.01fF
C146 a1 gnd 0.02fF
C147 b2 gnd 0.12fF
C148 xor1_1/a_32_n47# p2 0.10fF
C149 2and_2/a_13_5# Vdd 0.09fF
C150 xor1_3/a_32_n47# gnd 0.04fF
C151 b1 gnd 0.17fF
C152 2and_0/a_13_5# a3 0.04fF
C153 Vdd xor1_0/a_n12_n44# 0.09fF
C154 xor1_2/a_32_n47# Vdd 0.09fF
C155 b1 Vdd 0.13fF
C156 b3 p3 0.10fF
C157 p1 a1 0.01fF
C158 a3 b3 2.71fF
C159 gnd vdd 1.29fF
C160 vdd vdd 0.05fF
C161 b3 a3 0.24fF
C162 a3 vdd 0.05fF
C163 Vdd Vdd 0.06fF
C164 Vdd 2and_2/a_13_5# 0.08fF
C165 a1 b1 0.23fF
C166 b3 b2 0.77fF
C167 b1 xor1_2/a_32_n47# 0.28fF
C168 xor1_2/a_n12_n44# p1 0.12fF
C169 b2 vdd 0.01fF
C170 Vdd vdd 0.12fF
C171 a2 xor1_1/a_32_n47# 0.10fF
C172 a3 gnd 0.08fF
C173 xor1_3/a_n12_n44# vdd 0.12fF
C174 b0 Vdd 0.13fF
C175 b3 a2 0.23fF
C176 2and_2/a_13_5# g1 0.05fF
C177 b1 gnd 0.03fF
C178 b1 vdd 0.13fF
C179 Vdd xor1_0/a_32_n47# 0.09fF
C180 b0 p0 0.10fF
C181 gnd gnd 0.05fF
C182 b3 b2 0.07fF
C183 Vdd vdd 0.05fF
C184 xor1_0/a_n12_n44# p3 0.12fF
C185 gnd gnd 0.04fF
C186 vdd vdd 0.05fF
C187 vdd vdd 0.05fF
C188 a2 gnd 0.02fF
C189 a3 xor1_0/a_n12_n44# 0.08fF
C190 b3 vdd 0.03fF
C191 a1 2and_2/a_13_5# 0.04fF
C192 Vdd Vdd 0.03fF
C193 2and_1/a_13_5# Vdd 0.02fF
C194 b2 gnd 0.02fF
C195 a1 gnd 0.05fF
C196 b2 xor1_1/a_n12_n44# 0.20fF
C197 b3 gnd 0.12fF
C198 a0 gnd 0.08fF
C199 2and_0/a_13_5# Vdd 0.08fF
C200 a0 b0 0.23fF
C201 gnd xor1_2/a_32_n47# 0.04fF
C202 xor1_1/a_n12_n44# gnd 0.08fF
C203 Vdd a1 0.14fF
C204 g0 gnd 0.06fF
C205 Vdd g1 0.06fF
C206 gnd b1 0.12fF
C207 g2 gnd 0.06fF
C208 b2 a0 0.10fF
C209 2and_2/a_13_5# gnd 0.02fF
C210 xor1_2/a_n12_n44# Vdd 0.09fF
C211 Vdd a1 0.08fF
C212 xor1_2/a_32_n47# a1 0.10fF
C213 gnd gnd 0.05fF
C214 gnd vdd 0.88fF
C215 b1 a1 2.69fF
C216 xor1_0/a_32_n47# p3 0.10fF
C217 a3 xor1_0/a_32_n47# 0.10fF
C218 b3 xor1_0/a_n12_n44# 0.23fF
C219 Vdd xor1_3/a_n12_n44# 0.09fF
C220 b3 gnd 0.15fF
C221 b1 xor1_2/a_n12_n44# 0.20fF
C222 Vdd g1 0.03fF
C223 xor1_3/a_32_n47# a0 0.10fF
C224 vdd gnd 0.35fF
C225 a2 gnd 0.05fF
C226 b2 gnd 0.15fF
C227 a1 vdd 0.04fF
C228 Vdd 2and_1/a_13_5# 0.09fF
C229 b2 xor1_1/a_32_n47# 0.28fF
C230 a2 vdd 0.23fF
C231 xor1_0/a_n12_n44# gnd 0.08fF
C232 xor1_3/a_n12_n44# p0 0.12fF
C233 a0 2and_3/a_13_5# 0.04fF
C234 gnd b3 0.03fF
C235 gnd b0 0.03fF
C236 g0 2and_3/a_13_5# 0.05fF
C237 Vdd Vdd 0.03fF
C238 xor1_1/a_32_n47# gnd 0.04fF
C239 b3 a0 0.10fF
C240 a0 vdd 0.01fF
C241 Vdd p2 0.02fF
C242 Vdd vdd 0.12fF
C243 b0 gnd 0.12fF
C244 Vdd vdd 0.05fF
C245 b3 2and_0/a_13_5# 0.17fF
C246 2and_1/a_13_5# Vdd 0.08fF
C247 vdd Gnd 0.78fF 
C248 vdd Gnd 0.01fF 
C249 gnd Gnd 0.01fF 
C250 vdd Gnd 0.03fF 
C251 b0 Gnd 0.83fF 
C252 gnd Gnd 0.41fF
C253 p0 Gnd 0.81fF
C254 vdd Gnd 0.41fF
C255 xor1_3/a_32_n47# Gnd 0.42fF
C256 xor1_3/a_n12_n44# Gnd 0.50fF
C257 b0 Gnd 2.07fF
C258 a0 Gnd 2.06fF
C259 Vdd Gnd 1.63fF
C260 gnd Gnd 0.52fF
C261 p1 Gnd 0.81fF
C262 vdd Gnd 0.41fF
C263 xor1_2/a_32_n47# Gnd 0.42fF
C264 xor1_2/a_n12_n44# Gnd 0.50fF
C265 b1 Gnd 2.84fF
C266 a1 Gnd 2.05fF
C267 Vdd Gnd 1.63fF
C268 gnd Gnd 0.49fF
C269 p2 Gnd 0.81fF
C270 vdd Gnd 0.41fF
C271 xor1_1/a_32_n47# Gnd 0.42fF
C272 xor1_1/a_n12_n44# Gnd 0.50fF
C273 b2 Gnd 2.83fF
C274 a2 Gnd 2.05fF
C275 Vdd Gnd 1.63fF
C276 gnd Gnd 0.54fF
C277 p3 Gnd 0.81fF
C278 vdd Gnd 0.41fF
C279 xor1_0/a_32_n47# Gnd 0.42fF
C280 xor1_0/a_n12_n44# Gnd 0.50fF
C281 b3 Gnd 2.83fF
C282 a3 Gnd 2.05fF
C283 Vdd Gnd 1.63fF
C284 gnd Gnd 0.34fF
C285 g0 Gnd 0.29fF
C286 Vdd Gnd 0.36fF
C287 2and_3/a_13_5# Gnd 0.37fF
C288 b0 Gnd 0.32fF
C289 a0 Gnd 0.28fF
C290 Vdd Gnd 0.43fF
C291 Vdd Gnd 0.67fF
C292 gnd Gnd 0.34fF
C293 g1 Gnd 0.07fF
C294 Vdd Gnd 0.36fF
C295 2and_2/a_13_5# Gnd 0.37fF
C296 b1 Gnd 0.32fF
C297 a1 Gnd 0.28fF
C298 Vdd Gnd 0.43fF
C299 Vdd Gnd 0.67fF
C300 gnd Gnd 0.34fF
C301 g2 Gnd 0.29fF
C302 Vdd Gnd 0.27fF
C303 2and_1/a_13_5# Gnd 0.37fF
C304 b3 Gnd 0.32fF
C305 a2 Gnd 0.28fF
C306 Vdd Gnd 0.43fF
C307 Vdd Gnd 0.67fF
C308 gnd Gnd 0.34fF
C309 g3 Gnd 0.29fF
C310 Vdd Gnd 0.36fF
C311 2and_0/a_13_5# Gnd 0.37fF
C312 b3 Gnd 0.32fF
C313 a3 Gnd 0.28fF
C314 Vdd Gnd 0.43fF
C315 Vdd Gnd 0.67fF

.tran 0.05n 10n

.control
run

set color0 = white
set color1 = black

plot v(p0) v(p1)+2 v(p2)+4 v(p3)+6 v(g0)+8 v(g1)+10 v(g2)+12 v(g3)+14


.endc
